US06919337B2
N-Chlorosuccinimide (0.347 g, 2.60 mmol) is added to a solution of 6-methoxyisoquinoline (Synth. Commun. 1999, 29, 1617) (0.207 g, 1.30 mmol) in acetic acid (9m1). The reaction is heated at 50° C. for 3 hours, cooled to ambient temperature, evaporated and partitioned between ethyl acetate and 1M aqueous sodium hydroxide. The organic phase is washed with water and brine, dried over magnesium sulfate and evaporated afford 5-chloro-6-methoxyisoquinoline, [MH]+ 194. A solution of this intermediate (0.175 g, 0.90 mmol) in THF (4.5 ml) and acetic anhydride (0.101 ml, 1.08 mmol) is treated with sodium triacetoxyborohydride (0.229 g, 1.08 mmol) and the reaction is stirred at ambient temperature for 22 hours. The solvent is evaporated, the residue is taken into ethyl acetate, washed with 0.5M aqueous hydrochloric acid, then brine and dried over magnesium sulfate. Evaporation affords 1-(5-chloro-6-methoxy-1H-isoquinolin-2-yl)-ethanone, mp 78-80° C. A suspension of this intermediate (0.150 g, 0.60 mmol) and glyoxylic acid (76mg, 0.80 mmol) in 6M aqueous hydrochloric acid (2.8 ml) is heated at 100° C. for 3 hours. After cooling to ambient temperature, the resultant solid is collected by filtration to afford (5-chloro-6-methoxy-isoquinolin-4-yl)-acetic acid, [MH]+ 252. A suspension of this intermediate (0.970 g, 3.38 mmol) and ammonium formate (1.05 g, 16.9 mmol) in 1:1 acetic acid-water (25 ml) is treated with 10% Pd/C (0.730 g) and stirred at ambient temperature for 16 hours. After filtration through Celite®, the combined filtrate and washings are evaporated and purified by Soxhlet extraction with acetone to afford (6-methoxy-isoquinolin-4-yl)-acetic acid [MH]+ 218. Alternatively reduction of (5-chloro-6-methoxy-isoquinolin-4-YIN)-acetic acid to afford (6-methoxy-isoquinolin4-yl)-acetic acid is accomplished by stirring a suspension of (5-chloro-6-methoxy-isoquinolin-4-yl)-acetic acid (20 g, 69.4 mmol) in 1 Molar sodium hydroxide solution (400 ML) for 20 min, filtering off the resultant salt and then treating with hydrogen gas in the presence of 10% Pd/C (1.4 g) at atmospheric pressure for 2.25 h. The resulting suspension is filtered through glass wool and celite, washing with water (50 ML). The solution is then cooled in an ice water bath and slowly (30 min) neutralized and then acidified with 5 Molar hydrochloric acid (80 ml). A suspension forms and further crystallisation is encouraged by standing at 5° C. for 20 h. The resulting crystals are removed by filtration and washed with ice cold ethanol (25 ml) drying under reduced pressure gives (6-methoxy-isoquinolin-4-yl)-acetic acid.

reactant | (5-chloro-6-methoxy-isoquinolin-4-yl)-acetic acid | 69.4 mmol, 20 g | ClC1=C2C(=CN=CC2=CC=C1OC)CC(=O)O | C12H10ClNO3
solvent | sodium hydroxide | 1 Molar | [OH-].[Na+]
product | (6-methoxy-isoquinolin-4-yl)-acetic acid | COC=1C=C2C(=CN=CC2=CC1)CC(=O)O | C12H11NO3
